* C:\users\magyar-gabor-balazs\Documents\akkutolto.asc
R1 N003 N002 10
C1 N003 0 10µ
C2 N004 0 10µ
C3 N001 0 10µ
D1 N006 N007 PT-121-B
V1 N001 0 20
V2 N005 0 PULSE(0 14 0 30 0 100)
R2 N005 N004 100
XU1 N003 N002 N001 LT1086-5
XU2 N006 N004 N003 LT1086-5
D3 0 N008 BZX84C6V2L
R3 N007 N008 100
.model D D
.lib C:\users\magyar-gabor-balazs\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 40 0 1m
.lib LT1083.lib
.backanno
.end
