* Z:\home\magyar-gabor-balazs\KiCAD\akkutolto\LTSpice\akkutolto.asc
R1 stab_cu N001 10
C1 stab_cu 0 10µ
C2 stab_vol 0 10µ
C3 in 0 10µ
D1 N002 P001 QTLP690C
V1 in 0 20
V2 bat_vol 0 PULSE(0 14 0 30 0 100)
R2 bat_vol stab_vol 100
XU1 stab_cu N001 in LT1086-5
XU2 N002 stab_vol stab_cu LT1086-5
D3 0 N003 MMBZ6V8ALY
R3 P001 N003 80
.model D D
.lib C:\users\magyar-gabor-balazs\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 40 0 1m
.lib LT1083.lib
.backanno
.end
